### PR TITLE
[Merged by Bors] - feat: port Topology.PathConnected

### PR DESCRIPTION
**Pull request by j-loreaux**
The major thing to note is that I have replaced the `CoeFun` instance (which was `p ↦ p.toContinuousMap.toFun`) with `FunLike.coe`, but previously `Path` did not have a `FunLike` instance, so I have added a `ContinuousMapClass` instance. These are defeq.

This also meant there would have been *two* coercions from `Path x y` to `C(I, X)`, namely, the one which was originally declared in this file (`:= p ↦ p.toContinuousMap`) and the one inherited from `ContinuousMapClass`. As a result I have opted for the deleting the former in favor of the latter. These are *not* definitionally equal, but with the rewrite lemmas in place, there seem to be no real issues.

Note: the biggest reason for switching to `FunLike` was that the previous coercions were causing absolute hell early in the file with timeouts. If you want to see what I mean, checkout an early commit and attempt to start fixing. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/PathConnected.lean [hunk 1]
```diff
@@ -321,24 +347,36 @@ theorem trans_apply (γ : Path x y) (γ' : Path y z) (t : I) :
...
-    norm_num [ht]
+  simp only [trans_apply, ← one_div, symm_apply, not_le, Function.comp_apply]
+  split_ifs with h h₁ h₂ <;> rw [coe_symm_eq] at h
+  · have ht : (t : ℝ) = 1 / 2 := by
+      refine le_antisymm h₁ ?_
+      rw [sub_le_comm] at h
+      norm_num at h
+      exact h
+    -- porting note: was `linarith [unitInterval.nonneg t, unitInterval.le_one t]` but `linarith`
+    -- doesn't know about `ℚ` yet.
```
Comment (jcommelin) [inline Mathlib/Topology/PathConnected.lean:358]: Is there already an issue for this problem? If so, please link to it. If not, please create it and link to it.

Comment (j-loreaux) [reply Mathlib/Topology/PathConnected.lean]: It's #2714. I've now added links to it throughout.
